US09034900B2
Step 1: 4-(2-fluoro-5-methylsulfonylphenyl)-2-methylisoquinolin-1-one
A mixture of compound 2-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)isoquinolin-1-one (4.1 g, 14.5 mmol), 2-bromo-4-methylsulfonyl-1-fluorobenzene (3.5 g, 13.8 mmol) prepared in a similar manner to Example 79 steps 1-2, CsF (6.3 g, 41.3 mmol), and Pd(dppf)Cl2 (1.0 g, 1.38 mmol) in DME (70 mL) and MeOH (35 ml) was stirred at 70° C. for 12 h under N2. The mixture was concentrated and the residue was purified by column chromatography on silica gel (PE:EA=2:1-0:1) to give the title compound (3.4 g, 74.4%) as a red solid. LCMS (M+H)+=331.9 (M+1)+

reactant | 2-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)isoquinolin-1-one | 14.5 mmol, 4.1 g | CN1C(C2=CC=CC=C2C(=C1)B1OC(C(O1)(C)C)(C)C)=O | C16H20BNO3
reactant | 2-bromo-4-methylsulfonyl-1-fluorobenzene | 13.8 mmol, 3.5 g | BrC1=C(C=CC(=C1)S(=O)(=O)C)F | C7H6BrFO2S
reactant | CsF | 41.3 mmol, 6.3 g | [F-].[Cs+]
solvent | DME | 70 mL | COCCOC | C4H10O2
solvent | MeOH | 35 ml | CO | CH4O
catalyst | Pd(dppf)Cl2 | 1.38 mmol, 1.0 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-(2-fluoro-5-methylsulfonylphenyl)-2-methylisoquinolin-1-one | 3.4 g, 74.4% | FC1=C(C=C(C=C1)S(=O)(=O)C)C1=CN(C(C2=CC=CC=C12)=O)C | C17H14FNO3S
